US05760263
In the same apparatus and procedures as EXAMPLE 1, 0.60 g (3.22 mmol) of ferrocene was reacted with 1.00 g (6.44 mmol) of allylmethyldichlorosilane under dry nitrogen atmospheric pressure for 2 hrs. After the addition of the catalyst solution, the reaction mixture was stirred for 2 hrs to complete the alkylation. The solvent was distilled at atmospheric pressure and the products were then extracted with 20.0 mL of hexane. Vacuum distillation of the reaction products at 180° C. and at 0.5 torr, produced (3,3-dichloro-1-methyl-3-silabutyl)ferrocene [yield: 21% (based on the reacted ferrocene), bp:(104°-110° C./0.5 torr)]. By vacuum distillation of the remaining products at 300° C. and at 0.5 torr, bis(3,3-dichloro-1-methyl-3-silabutyl)ferrocene as a mixture of isomers(m=1, n=1, yield; 7%, bp; 165°-170° C./0.5 torr) was obtained.

reactant | ferrocene | 3.22 mmol, 0.60 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | allylmethyldichlorosilane | 6.44 mmol, 1.00 g | C(C=C)C[SiH](Cl)Cl | C4H8Cl2Si
product | (3,3-dichloro-1-methyl-3-silabutyl)ferrocene | yield: 21% | Cl[Si](CC(C)[C-]1C=CC=C1)(C)Cl.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C9H13Cl2Si.C5H5.Fe/c1-8(7-12(2,10)11)9-5-3-4-6-9;1-2-4-5-3-1;/h3-6,8H,7H2,1-2H3;1-5H;/q2*-1;+2
